US08304419B2
Step B: 2-Amino-4-chloro-N-({4-chloro-3-[(2-chloro-6-cyano-4-pyridinyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide
The title compound was prepared in a similar manner to that described herein using 2-azido-4-chloro-N-({4-chloro-3-[(2-chloro-6-cyano-4-pyridinyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (123 mg, 0.255 mmol), a catalytic amount of Lindlar catalyst in EtOAc (15 ml) under H2 (50 psi) to afford the title compound as a white powder (52 mg, 45%). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.96 (1H, s) 7.98 (1H, d) 7.78 (1H, t) 7.59 (1H, d) 7.53 (1H, d) 7.39 (1H, t) 5.83 (2H, s) 4.50 (2H, d). LCMS: m/z 455 (M+1).

reactant | 2-azido-4-chloro-N-({4-chloro-3-[(2-chloro-6-cyano-4-pyridinyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.255 mmol, 123 mg | N(=[N+]=[N-])C=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=NC(=C1)C#N)Cl)F | C17H8Cl3FN8O2
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | 2-Amino-4-chloro-N-({4-chloro-3-[(2-chloro-6-cyano-4-pyridinyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 52 mg, 45% | NC=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=NC(=C1)C#N)Cl)F | C17H10Cl3FN6O2
